US09085576B2
Step 2. ethyl 2-(difluoromethyl)thiazole-4-carboxylate
A mixture of 2,2-difluoroethanethioamide (1.023 g, 9.21 mmol) and ethyl bromopyruvate (1.150 mL, 9.21 mmol) in EtOH (20 mL) was heated to 50° C. for 2 h.

reactant | 2,2-difluoroethanethioamide | 9.21 mmol, 1.023 g | FC(C(N)=S)F | C2H3F2NS
reactant | ethyl bromopyruvate | 9.21 mmol, 1.150 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | EtOH | 20 mL | CCO | C2H6O
product | ethyl 2-(difluoromethyl)thiazole-4-carboxylate | FC(C=1SC=C(N1)C(=O)OCC)F | C7H7F2NO2S
